US04332808
700 mg of lithium were added in small fractions over one hour at -40° C. to a mixture of 100 ml of ammonia, 1.2 g of 3-(1H-indol-4-yl)-3-piperidinol hydrochloride, 20 ml of tetrahydrofuran and 10 ml of anhydrous ethanol and the ammonia was evaporated at room temperature. The residue was taken up in 100 ml of water and the aqueous phase was extracted with chloroform containing 10% methanol. The organic phase was washed with water, dried and filtered. The filtrate was evaporated to dryness and the 950 mg of residue was chromatographed over silica gel. Elution with a 7-2-1-chloroform-methanol-triethylamine mixture yielded 665 mg of 4-(piperidin-3-yl)-1H-indole.

reactant | lithium | 700 mg | [Li] | Li
reactant | ammonia | 100 ml | N | H3N
reactant | 3-(1H-indol-4-yl)-3-piperidinol hydrochloride | 1.2 g | Cl.N1C=CC2=C(C=CC=C12)C1(CNCCC1)O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(piperidin-3-yl)-1H-indole | 665 mg | N1CC(CCC1)C1=C2C=CNC2=CC=C1 | C13H16N2
